US08471005B2
In a 10 mL sealed tube, to N-tert-Butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide (127.4 mg, 0.368 mmol) and N,N-Diisopropylethylamine (0.257 mL, 1.47 mmol) in 3.2 mL of anhydrous DMF was added N-Phenylbis(trifluoromethane-sulfonimide (113 mg, 0.318 mmol). After stirring at room temperature for 1 hour, 2-[4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetamide (92 mg, 0.349 mmol) was added. The reaction mixture was heated at 65° C. overnight. The reaction was conc. in vacuo. The reaction mixture was purified via silica gel column chromatography using DCM then 500:15:10 DCM:MeOH:7N NH3/MeOH as the eluant. The collected fractions afforded 2-(4-{4-[7-(3-tert-Butylsulfamoylphenyl)pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3-methoxyphenyl)piperidin-1-yl)-acetamide as a yellow solid (23.0 mg, 11%). MP 250-252° C. LCMS (E/I+) 592.25 (M+H). 1H NMR (DMSO-d6)-9.02 (s, 1H), 8.55 (s, 1H), 8.37 (d, 1H, J=7.84 Hz), 7.99 (d, 1H, J=7.96 Hz), 7.85 (s, 1H), 7.83 (s, 1H), 7.69 (t, 1H, J=7.86 Hz), 7.63 (s, 1H), 7.23 (d, 1H, J=4.80 Hz), 7.21 (br s, 1H), 7.15 (br s, 1H), 7.01 (d, 1H, J=4.72 Hz), 6.95 (s, 1H), 6.92 (s, 1H), 3.88 (s, 3H), 2.97-2.90 (m, 2H), 2.88 (s, 2H), 2.49-2.41 (m, 1H), 2.22-2.11 (m, 2H), 1.84-1.72 (m, 4H), 1.12 (s, 9H).

reactant | N-tert-Butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | 0.368 mmol, 127.4 mg | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | N,N-Diisopropylethylamine | 1.47 mmol, 0.257 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethane-sulfonimide | 0.318 mmol, 113 mg | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
reactant | 2-[4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetamide | 0.349 mmol, 92 mg | NC1=C(C=C(C=C1)C1CCN(CC1)CC(=O)N)OC | C14H21N3O2
solvent | DMF | 3.2 mL | CN(C)C=O | C3H7NO
product | 2-(4-{4-[7-(3-tert-Butylsulfamoylphenyl)pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3-methoxyphenyl)piperidin-1-yl)-acetamide | 23.0 mg, 11% | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCN(CC2)CC(=O)N)OC | C30H37N7O4S
